US04906634
N-[4-[[2-[Ethyl(5-methylhexyl)amino]ethyl](2-propenyl)amino]phenyl]methanesulfonamide
In a manner similar to Example 5 react N-(4-aminophenyl)-N'-ethyl-N'-(5-methylhexyl)-N-(2-propenyl)-1,2-ethanediamine with methanesulfonic anhydride in acetonitrile to obtain the title compound.

reactant | N-(4-aminophenyl)-N'-ethyl-N'-(5-methylhexyl)-N-(2-propenyl)-1,2-ethanediamine | NC1=CC=C(C=C1)N(CCN(CCCCC(C)C)CC)CC=C | C20H35N3
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[4-[[2-[Ethyl(5-methylhexyl)amino]ethyl](2-propenyl)amino]phenyl]methanesulfonamide | C(C)N(CCN(C1=CC=C(C=C1)NS(=O)(=O)C)CC=C)CCCCC(C)C | C21H37N3O2S
